US06518423B1
Ethyl [(1-benzylpiperidin-4-yl)carbamoyl]aminoacetate
2 g of 4-amino-1-benzylpiperidine was dissolved in 15 ml of tetrahydrofuran. After adding 1.6 g of ethyl isocyanatoacetate, the resulting mixture was heated under reflux for 1 hour. Then the reaction mixture was concentrated under reduced pressure to thereby give 3.15 g of the title compound as white crystals.

reactant | 4-amino-1-benzylpiperidine | 2 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | ethyl isocyanatoacetate | 1.6 g | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Ethyl [(1-benzylpiperidin-4-yl)carbamoyl]aminoacetate | 3.15 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)NCC(=O)OCC | C17H25N3O3
